US06319920B1
(S)-N-[2-(2,3,-Dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine (0.913 grams, 2.4 mmole) was dissolved in warm methanol (20 ml). To this solution was added 1.0M hydrogen chloride (2.5 ml) in ethyl ether. The solvent was removed under reduced pressure. The residue was dissolved in warm 2-butanone (3.0 ml). After 15 hours at 22° C., the crystals were collected and dried in vacuo to give (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine hydrochloride (0.99 grams, 99%), m.p. 112-114° C., M+H 381.

reactant | (S)-N-[2-(2,3,-Dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine | 2.4 mmole, 0.913 grams | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCN(CC2)S(=O)(=O)C | C20H32N2O3S
reactant | hydrogen chloride | 1.0M, 2.5 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
product | (S)-N-[2-(2,3,-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine hydrochloride | 0.99 grams, 99% | Cl.O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCN(CC2)S(=O)(=O)C | InChI=1S/C20H32N2O3S.ClH/c1-4-21(15-17-7-10-22(11-8-17)26(3,23)24)16(2)13-18-5-6-20-19(14-18)9-12-25-20;/h5-6,14,16-17H,4,7-13,15H2,1-3H3;1H/t16-;/m0./s1
